### PR TITLE
Add Erdős Problem 1215 (Mac Lane's theorem on escape paths of polynomials), link the formal disproof

### LINKED ISSUE #6269: Erdős Problem 1215
### What is the Erdős problem?

https://www.erdosproblems.com/1215

Does there exist a constant $C$ such that for every polynomial $P$ with $P(0)=1$, all of whose roots are on the unit circle, there exists a path in $\{ z: \lvert P(z)\rvert < 1\}$ which connects $0$ to the unit circle of length at most $C$?

Status: disproved (Mac Lane). A formal proof exists in plby/lean-proofs (`Erdos1215.not_erdos_1215`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6269.

### What changed
Adds `FormalConjectures/ErdosProblems/1215.lean` with `IsAdmissible P` (`P(0) = 1`, nonconstant, all roots on the unit circle), `IsEscapePath P γ` (a continuous path on `[0,1]` from `0` to the unit circle inside `{|P| < 1}` away from the start), lengths measured by `eVariationOn`, and:
- `erdos_1215` (`research solved`, `answer(False)`): no uniform bound on the length of such paths exists (Mac Lane [Ma53]). Linked to plby/lean-proofs `Erdos1215.not_erdos_1215` (Codex and GPT-5.6 Sol; six Mathlib-only files, using a Gelfand-theory polynomial separation lemma and an explicit labyrinth of walls).
- `erdos_1215.variants.mac_lane` (also linked): for every `L` some admissible `P` forces all escape paths to have length `> L`.
- `erdos_1215.variants.cohen`: an escape path always exists [Co52].

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos1215.not_erdos_1215` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both linked statements on top of a renamed copy, same axioms (the definitions are identical):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge1215

lemma isAdmissible_eq : Erdos1215.IsAdmissible = Erdos1215Plby.IsAdmissible := rfl
lemma isEscapePath_eq : Erdos1215.IsEscapePath = Erdos1215Plby.IsEscapePath := rfl

theorem erdos_1215_bridge : type_of% Erdos1215.erdos_1215 := by
  show False ↔ _
  simp only [false_iff, isAdmissible_eq, isEscapePath_eq]
  exact Erdos1215Plby.not_erdos_1215

theorem erdos_1215_mac_lane_bridge : type_of% Erdos1215.erdos_1215.variants.mac_lane := by
  simp only [isAdmissible_eq, isEscapePath_eq]
  exact Erdos1215Plby.hasArbitrarilyLongCounterexamples

end Bridge1215
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1215»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1215.lean [hunk 1]
```diff
@@ -0,0 +1,95 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1215.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

File: FormalConjectures/ErdosProblems/1215.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+open Polynomial Set
+
+namespace Erdos1215
+
+/--
+A polynomial `P` is *admissible* if `P(0) = 1`, `P` is nonconstant, and all its roots lie on the
+unit circle.
+-/
+def IsAdmissible (P : ℂ[X]) : Prop :=
+  P.eval 0 = 1 ∧ 0 < P.natDegree ∧ ∀ z : ℂ, P.IsRoot z → ‖z‖ = 1
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1215.lean:44]: is this potentially a good candidate for `FormalConjecturesForMathlib` seems like it would be used in more than one problem
